US08039472B2
A solution of N-(diphenylmethylene) aminoacetonitrile (5.14 g, 23.4 mmol) in DCM (12 ml) is treated with (R)-4-[4-(3-bromo-propyl)-phenoxymethyl]-2,2-dimethyl-[1,3]dioxolane (8.1 g, 24 mmol) in DCM (12 ml) and cooled to 0° C. 48% aqueous NaOH (20 ml) is added followed by benzyltriethylammonium chloride (530 mg, 2.4 mmol) and the resulting mixture is allowed to warm to room temperature. After stirring vigorously for 4 hours mixture is diluted with DCM (100 ml) and the aqueous portion is removed. The organic layer is washed with water (2×50 ml), brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product is purified by chromatography on silica eluting with 15:1 iso-hexane/diethyl ether to 4:1 iso-hexane/diethyl ether to yield 2-(Benzhydrylidene-amino)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]pentanenitrile as a yellow oil; 1H NMR (CDCl3): mix of diastereoisomers 1.39 (3H, s), 1.43 (3H, s), 1.71 (2H, m), 1.80-1.98 (2H, m), 2.52 (2H, tr, J=7.0 Hz) 3.90, (2H, m), 4.02 (1H, m), 4.10-4.22 (2H, m), 4.47 (1H, pent, J=6.9 Hz), 6.82 (2H, d, J=7.4 Hz), 7.05 (2H, d, J=7.4 Hz), 7.19 (2H, m), 7.35 (2H, tr, J=7.2 Hz), 7.40-7.50 (4H, m), 7.60 (2H, d, J=7.1 Hz).

reactant | N-(diphenylmethylene) aminoacetonitrile | 23.4 mmol, 5.14 g | C1=CC=C(C=C1)C(=NCC#N)C2=CC=CC=C2 | C15H12N2
reactant | (R)-4-[4-(3-bromo-propyl)-phenoxymethyl]-2,2-dimethyl-[1,3]dioxolane | 24 mmol, 8.1 g | BrCCCC1=CC=C(OC[C@H]2OC(OC2)(C)C)C=C1 | C15H21BrO3
reactant | NaOH | 20 ml | [OH-].[Na+]
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 2.4 mmol, 530 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(Benzhydrylidene-amino)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]pentanenitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C#N)CCCC1=CC=C(C=C1)OC[C@H]1OC(OC1)(C)C | C30H32N2O3
